US08431695B2
Preparation of 2-(3-{[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]methyl}azetidin-1-yl)ethanol
To a solution of 7-(azetidin-3-ylmethyl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride (100 mg, 0.22 mmol) in THF (1.5 mL) was added (2-bromoethoxy)-tert-butyldimethylsilane (53 μL, 0.25 mmol) and N,N-diisopropylethylamine (117 μl, 0.67 mmol). The reaction was heated (60° C.) for 17 h and then cooled to rt. The crude mixture was purified by preparative HPLC using a gradient elution from 20% to 50% acetonitrile in water followed by filtration through an acidic resin, washing with MeOH. The product was eluted with 2M NH3 in MeOH and the filtrate was concentrated. A solution of the residue in 1% HCl in 95:5 EtOH/H2O (4 mL) was stirred at rt for 16 h. The mixture was basified (pH 9) with the addition of saturated, aqueous NaHCO3 solution and was evaporated to remove volatiles. The remaining aqueous mixture was extracted with ethyl acetate (3×15 mL) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated. The residue was triturated with Et2O to afford 6 mg (6%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.58 (s, 1 H), 8.17 (s, 1 H), 7.83 (d, 1 H), 7.67 (s, 1 H), 7.26-7.39 (m, 5 H), 7.14 (d, 1 H), 6.77 (d, 1 H), 5.66 (s, 2 H), 4.11-4.27 (m, 2 H), 3.89-4.02 (m, 3 H), 3.53-3.63 (m, 2 H), 3.33-3.42 (m, 1 H), 3.10-3.30 (m, 4 H); ES-MS m/z 454.46 [M+H]+, HPLC RT (min) 1.96.

reactant | 7-(azetidin-3-ylmethyl)-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride | 0.22 mmol, 100 mg | Cl.N1CC(C1)CC1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | 0.25 mmol, 53 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | N,N-diisopropylethylamine | 0.67 mmol, 117 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-(3-{[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]methyl}azetidin-1-yl)ethanol | 6 mg, 6% | NC1=NC=NN2C1=C(C=C2CC2CN(C2)CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H27N7O
